US05426119
e) 6-(4-(2-(4-Chlorobenzenesulphonylamino)ethyl)phenyl)-6-(3-pyridyl)hexanoic acid
1.9 g of 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hexanoic acid are suspended in 150 ml of dioxan and 20 ml of 5% potassium carbonate solution are added thereto. 1.54 g of 4-chlorobenzenesulphonic acid chloride in 20 ml of dioxan are added to this mixture at ambient temperature. After 5 hours it is rotary evaporated to dryness, the residue is taken up in a little sodium hydroxide solution and then precipitated with dilute acetic acid. The precipitate is collected, dried and then chromatographed over a silica gel column using chloroform/methanol (10:1) as eluant.

reactant | 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hexanoic acid | 1.9 g | NCCC1=CC=C(C=C1)C(CCCCC(=O)O)C=1C=NC=CC1 | C19H24N2O2
reactant | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzenesulphonic acid chloride | 1.54 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 6-(4-(2-(4-Chlorobenzenesulphonylamino)ethyl)phenyl)-6-(3-pyridyl)hexanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(CCCCC(=O)O)C=1C=NC=CC1 | C25H27ClN2O4S
